US05358949
A suspension prepared by mixing 1 g of 1-methyl-8-amino-3,4-dihydrocarbostyril, 1.35 g of 1,4-dibromobutane, 1.9 g of sodium iodide, 1.75 g of potassium carbonate in 10 ml of acetonitrile was refluxed by heating for 20 hours. Then to the reaction mixture was added dichloromethane-water, and the organic layer was collected by separation, washed with water, and dried with anhydrous sodium sulfate. Next, the solvent was removed by evaporation, and the residue thus obtained was purified by a silica gel column chromatography (eluent: dichloromethane:methanol=50:1). The purified product was dissolved in diethyl ether, and the desired product was converted into hydrochloride by using ethanol-concentrated hydrochloric acid, recrystallized from ethanol-diethyl ether to obtain 1.15 g of 1-methyl-8-pyrrolidino-3,4-dihydrocarbostyril hydrochloride. White powdery substance. Melting point: 174.5°-177° C.

reactant | 1-methyl-8-amino-3,4-dihydrocarbostyril | 1 g | CN1C(=O)CCC2=CC=CC(=C12)N | C10H12N2O
reactant | 1,4-dibromobutane | 1.35 g | BrCCCCBr | C4H8Br2
reactant | sodium iodide | 1.9 g | [I-].[Na+]
reactant | potassium carbonate | 1.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane water | ClCCl.O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-methyl-8-pyrrolidino-3,4-dihydrocarbostyril hydrochloride | 1.15 g | Cl.CN1C(=O)CCC2=CC=CC(=C12)N1CCCC1 | InChI=1S/C14H18N2O.ClH/c1-15-13(17)8-7-11-5-4-6-12(14(11)15)16-9-2-3-10-16;/h4-6H,2-3,7-10H2,1H3;1H
